US08633313B2
A mixture of 4,6-dichloro-5-pyrimidinecarbaldehyde (8.00 g, 44.8 mmol), NaOAc (3.7 g, 1.0 eq) and NH2OH.HCl (3.1 g, 1.0 eq) in EtOH (320 mL) was stirred at rt for 2 h. The reaction mixture was filtered, concentrated and purified by column chromatography on silica gel (dry loading, first DCM then DCM/EtOAc, 1/9) to give 4,6-dichloro-5-pyrimidinecarbaldehyde oxime as a white solid.

reactant | 4,6-dichloro-5-pyrimidinecarbaldehyde | 44.8 mmol, 8.00 g | ClC1=NC=NC(=C1C=O)Cl | C5H2Cl2N2O
reactant | NaOAc | 3.7 g, 1.0 eq | CC(=O)[O-].[Na+]
reactant | NH2OH.HCl | 3.1 g, 1.0 eq | NO.Cl
solvent | EtOH | 320 mL | CCO | C2H6O
product | 4,6-dichloro-5-pyrimidinecarbaldehyde oxime | ClC1=NC=NC(=C1C=NO)Cl | C5H3Cl2N3O
